US05773625
2-Chloro-5-hydroxymethylthiazole Hydrochloride
2-Chloro-5-chloromethylthiazole hydrochloride (100 g, 0.49 mole), and water (100 mL) were charged to a flask. The mixture was stirred and heated to 80° C. for 2.5 hours. The reaction mixture was cooled to about 15° C. and sodium carbonate (51.5 g) was added (to raise the pH to about 8-9). The product was extracted with ethyl acetate (1×500 mL and 1×250 mL). The combined organic extracts were stirred for 20 minutes with 3 g of decolorizing carbon (Norit® SA3 about 100 mesh) and filtered through celite. The celite and flask were washed with an additional 100 mL of ethyl acetate and combined with the filtrate. The filtrate was concentrated under reduced pressure to provide a yellow-orange oil. The oil was dissolved in 500 mL of ethyl acetate and cooled to -10° C., under a nitrogen atmosphere. A solution of HCl (17.82 grams, 1 eq.) in ethyl acetate was slowly added. The temperature was maintained below -5° C. After the addition was complete the slurry formed was stirred for 30 minutes. The product was filtered under vacuum and the flask and product washed with ethyl acetate(100 mL). The title compound, an off white powder, was purged with nitrogen gas until dry. Yield: 63.3 g; 69.6%.

reactant | 2-Chloro-5-chloromethylthiazole hydrochloride | 0.49 mole, 100 g | Cl.ClC=1SC(=CN1)CCl
reactant | water | 100 mL | O | H2O
reactant | sodium carbonate | 51.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 17.82 grams, 1 eq. | Cl | ClH
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-5-hydroxymethylthiazole Hydrochloride | Cl.ClC=1SC(=CN1)CO | InChI=1S/C4H4ClNOS.ClH/c5-4-6-1-3(2-7)8-4;/h1,7H,2H2;1H
